US06559167B1
[2-(Morpholin-4-yl)ethoxy]benzene-4-sulfonyl chloride was prepared using N-(2-phenoxyethyl) morpholine by similar reaction described above. For example, 7.2 g of N-(2-phenoxyethyl)morpholine HCl salt was resuspended in 20 ml of dichloromethane and 7 ml of chlorosulfonic acid was slowly introduced with cooling by ice-jacket. The reaction mixture was stirred at 0° C. for 2 hr, then, at room temperature overnight. Dichloromethane (350 ml) was added to the reaction mixture and excess chlorosulfonic acid was destroyed by adding icy water(about 100 g). Aqueous layer was adjusted to pH 8.5 by concentrated sodium carbonate solution with cooling by ice. Dichloromethane was dried over anhydrous magnesium sulfate and evaporated under reduced pressure to give 8.1 g of [2-(morpholin-4-yl)ethoxy]benzene-4-sulfonyl chloride. M.P. 48-50° C.

reactant | N-(2-phenoxyethyl) morpholine | O(C1=CC=CC=C1)CCN1CCOCC1 | C12H17NO2
reactant | N-(2-phenoxyethyl)morpholine HCl salt | 7.2 g | Cl.O(C1=CC=CC=C1)CCN1CCOCC1
reactant | chlorosulfonic acid | 7 ml | ClS(=O)(=O)O | ClHO3S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 350 ml | ClCCl | CH2Cl2
product | [2-(morpholin-4-yl)ethoxy]benzene-4-sulfonyl chloride | 8.1 g | N1(CCOCC1)CCOC1=CC=C(C=C1)S(=O)(=O)Cl | C12H16ClNO4S
